US09391288B2
A mixed solution of 20.9 g of 3-bromocarbazole, 15.0 g of phenylcarbazole-3-boronic acid, 366 mg of palladium acetate, 300 mg of tris(2-methylphenyl)phosphine, 105 ml of a 2M aqueous potassium carbonate solution and 260 ml of dimethoxyethane was refluxed for 6 hours under a nitrogen flow. The solution was cooled to room temperature, and then extracted with 500 ml of toluene. The organic layer was washed with 100 ml of water twice, dried over magnesium sulfate, and then evaporated. The resultant concentrate was purified by silica gel column chromatography and then vacuum-dried to obtain 13.5 g of 9-phenyl-9H,9′H-3,3′-bicarbazole.

reactant | 3-bromocarbazole | 20.9 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | phenylcarbazole-3-boronic acid | 15.0 g | C1(=CC=CC=C1)C1=CC(=CC=2C3=CC=CC=C3NC12)B(O)O | C18H14BNO2
reactant | potassium carbonate | 2M | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium acetate | 366 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(2-methylphenyl)phosphine | 300 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
solvent | dimethoxyethane | 260 ml | C(OC)COC | C4H10O2
product | 9-phenyl-9H,9′H-3,3′-bicarbazole | 13.5 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2NC3=CC=CC=C3C2C1 | C30H20N2
